* Netlist snapshot for record 20260910-233015-8148438 -- exactly what was simulated.
* DUT: placeholder-v1 (placeholder), sim/dut/placeholder_comparator.spice
* Testbench: sim/comparator-kickback/testbench/tb_kickback.spice
* ---------------- DUT NETLIST ----------------
* ============================================================================
* PLACEHOLDER DUT -- NOT A DESIGN, NOT A TOPOLOGY PROPOSAL
* ============================================================================
*
* This netlist exists for exactly one reason: so that sim/'s harness, its
* corner grid, its evidence-record format and its four experiment benches can
* be proven to run end to end BEFORE this repo's comparator topology has been
* decided. That decision is spec/porting-plan.md next step 1 and is a
* separate decision record; it is explicitly out of scope for the harness
* work (issue #8).
*
* Consequences, stated so nobody has to infer them:
*
*   - NOTHING HERE IS SIZED. The devices are round numbers picked by
*     inspection to give a converging operating point at the SG13G2 LV rail
*     (1.2 V +/-10%). No gm/ID study, no noise budget, no offset budget went
*     into any of them.
*   - NO NUMBER MEASURED AGAINST THIS DUT SUBSTANTIATES A SPEC ROW.
*     sim/dut.json declares provenance "placeholder", which makes every
*     record the harness writes against it carry a banner saying so.
*   - THIS IS NOT gf180-comparator's PLACEHOLDER, PORTED. It is this repo's
*     own stub, on SG13G2's LV devices (sg13_lv_nmos/sg13_lv_pmos), at this
*     repo's own supply. spec/porting-plan.md ports gf180-sar-adc's
*     testbench METHODOLOGY, not any topology, sizing, or numbers -- and
*     CLAUDE.md's two-PDK-twin note is about keeping the BENCH definitions
*     structurally identical to gf180-comparator's, not about sharing a DUT.
*   - THE FRONT-END LOAD IS AN IDEAL RESISTOR (plain SPICE `R`), not a PDK
*     resistor subckt. SG13G2's PDK resistors (rsil/rhigh/rppd) DO carry
*     real per-instance local mismatch (confirmed against the installed
*     checkout: resistors_mod_mismatch.lib's `nsmm_rsh`/`nsmm_w`/`nsmm_l`
*     agauss() terms, gated by the same `mm_ok` convention as the LV MOS
*     devices) -- unlike gf180mcu's resistor models, which hard-code their
*     mismatch coefficient to zero. Binding a real PDK resistor here would
*     therefore make a load-mismatch contribution part of this bench's
*     Monte Carlo whether or not that was an intentional design choice, so
*     it is deliberately deferred: sim/harness/corners.py has no `res`
*     family or resistor-dominated corner pair yet (see its module
*     docstring "extension point"), and this placeholder does not need one.
*     The decision stage below is BEHAVIOURAL and therefore commits to no
*     transistor topology at all.
*
* When design/comparator.sch (or its netlist) lands, point sim/dut.json at it
* and re-run. Nothing else in sim/ changes.
*
* Interface contract: sim/dut/README.md.
* Parameters supplied by the harness: dut_ib, dut_vcm, vdd_val, vdd_nom,
* temp_c (sim/harness/runner.py compose_deck).
* ============================================================================


* ---------------------------------------------------------------------------
* comparator_dut_analog -- the DC-resolvable front end.
*
* Exposed as its own subckt because two of the four experiments (offset-MC
* and preamp-noise) are small-signal analyses about a DC operating point.
* See sim/dut/README.md "Why there are two subckts".
*
* Simple NMOS-input pair on sg13_lv_nmos, 1:1 tail mirror, ideal resistor
* loads. w/l are round numbers within the LV device's usual range
* (default w=0.35u l=0.34u -- see the installed checkout's
* sg13g2_moslv_mod.lib). Do not read intent into them.
* ---------------------------------------------------------------------------
.subckt comparator_dut_analog vinp vinn ibias aop aon vdd vss
* 1:1 NMOS current mirror; ibias is forced into the diode branch.
Xmb  ibias ibias vss vss sg13_lv_nmos w=10u l=0.5u ng=1 m=1
Xmt  atail ibias vss vss sg13_lv_nmos w=10u l=0.5u ng=1 m=1
* Input pair. The device whose gate is vinp drives the INVERTING node aon,
* so v(aop) - v(aon) = +A_v * (v(vinp) - v(vinn)).
Xmip aon vinp atail vss sg13_lv_nmos w=20u l=0.5u ng=1 m=1
Xmin aop vinn atail vss sg13_lv_nmos w=20u l=0.5u ng=1 m=1
* Ideal resistor loads. NOT a PDK resistor subckt -- see this file's header
* "THE FRONT-END LOAD IS AN IDEAL RESISTOR" for why.
Rlp vdd aop 20k
Rln vdd aon 20k
.ends comparator_dut_analog


* ---------------------------------------------------------------------------
* comparator_dut_latch -- BEHAVIOURAL regenerative decision stage.
*
* Deliberately behavioural. A transistor-level latch here would be a topology
* choice, and the topology decision is out of scope. What this models is only
* the *observable contract* every latched comparator has, so that the
* regeneration and kickback benches have something real to measure:
*
*   clk low   -> reset: both regeneration nodes pulled to mid-rail
*   clk high  -> evaluate: dv/dt = dv/tau + (input injection), i.e. the
*                exponential regeneration law t = t0 + tau*ln(V/(A*Vin))
*                the regeneration bench extracts tau from
*   output    -> held between decisions, flipping only once the regeneration
*                nodes have separated past an absolute threshold (an SR
*                latch's behaviour, not a differential zero-crossing)
*
* c_fb IS THE PART THAT MATTERS FOR KICKBACK and it is an explicit, declared
* stand-in: a real latch's input pair couples its rail-to-rail regeneration
* nodes back to its inputs through C_gd. Modelling that as an explicit 5 fF
* per side means the kickback bench measures a real path (regeneration node
* -> front-end output -> input-pair C_gd -> input node) instead of reporting
* a fictitious zero. The VALUE is a placeholder like everything else here.
*
* Ported structurally, unchanged in substance, from gf180-comparator's own
* placeholder_comparator.spice: this subckt is PDK-independent (it names no
* device model at all, only ideal behavioural sources referenced to
* v(vdd,vss)), so it needed no adaptation for SG13G2's 1.2 V rail -- every
* threshold below is expressed as a fraction of the supplied vdd/vss, not as
* an absolute volt figure.
* ---------------------------------------------------------------------------
.subckt comparator_dut_latch inp inn clk dout doutb vdd vss
.param g_reg=5m
.param c_reg=500f
.param g_in=5m
.param v_lim=0.4
.param c_fb=5f
.param g_clamp=1
.param r_hold=200
.param c_hold=100f
.param v_th=0.8
.param v_sharp=0.1
.param r_rst=100
* Clock enable, smoothed so the B-source expressions stay differentiable.
Ben  ken 0 v = '0.5*(1+tanh((v(clk)-0.5*v(vdd,vss))/0.05))'
Cqp  qp 0 {c_reg}
Cqn  qn 0 {c_reg}
* Positive feedback (tanh-limited) plus input injection. tau = c_reg/(2*g_reg).
Bqp  0 qp i = 'v(ken)*( g_reg*v_lim*tanh((v(qp)-v(qn))/v_lim) + g_in*(v(inp)-v(inn)) )'
Bqn  0 qn i = '-v(ken)*( g_reg*v_lim*tanh((v(qp)-v(qn))/v_lim) + g_in*(v(inp)-v(inn)) )'
* Reset to mid-rail while clk is low.
Brp  0 qp i = '(1-v(ken))*(0.5*v(vdd,vss)-v(qp))/r_rst'
Brn  0 qn i = '(1-v(ken))*(0.5*v(vdd,vss)-v(qn))/r_rst'
* Rail clamps -- the regeneration nodes are supply-bounded, like real ones.
Bcp  qp 0 i = 'g_clamp*(max(v(qp)-v(vdd),0)+min(v(qp)-v(vss),0))'
Bcn  qn 0 i = 'g_clamp*(max(v(qn)-v(vdd),0)+min(v(qn)-v(vss),0))'
* Latch input pair C_gd, explicit. This is the kickback path (see header).
Ckp  qp inp {c_fb}
Ckn  qn inn {c_fb}
* Output hold. Tracks the decision only once |v(qp)-v(qn)| passes v_th, so
* the output delay is a real function of overdrive rather than of the moment
* the differential crosses zero. Rh keeps the node non-floating for `op`.
Ch   h 0 {c_hold}
Rh   h vss 1G
Bh   0 h i = 'v(ken)*0.5*(1+tanh((abs(v(qp)-v(qn))-v_th)/v_sharp))*(v(vdd,vss)*0.5*(1+tanh((v(qp)-v(qn))/v_sharp))-v(h))/r_hold'
Bdo  dout  0 v = 'min(max(v(h),v(vss)),v(vdd))'
Bdob doutb 0 v = 'v(vdd)-min(max(v(h),v(vss)),v(vdd))'
.ends comparator_dut_latch


* ---------------------------------------------------------------------------
* comparator_dut -- the full clocked comparator the transient benches drive.
* ---------------------------------------------------------------------------
.subckt comparator_dut vinp vinn clk ibias dout doutb vdd vss
Xa vinp vinn ibias aop aon vdd vss comparator_dut_analog
Xl aop aon clk dout doutb vdd vss comparator_dut_latch
.ends comparator_dut

* ---------------- TESTBENCH FRAGMENT ----------------
* tb_kickback -- charge kicked back into the comparator's own input nodes by
* a decision, measured two ways: at the source impedance README.md's kickback
* row is stated at, and against a floating high-impedance source that cannot
* restore the injected charge.
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* section, .temp, the DUT netlist, the .control block and .end
* (sim/harness/README.md). Parameters from the harness: vdd_val, vdd_nom,
* temp_c, dut_ib, dut_vcm.
*
* METHODOLOGY PORTED FROM gf180-comparator/sim/comparator-kickback/ (itself
* ported from gf180-sar-adc) -- see this experiment's README.md for the full
* transfer/non-transfer list.
*
* THE ONE THING THAT MAKES THIS MEASUREMENT REAL: THE SOURCE IMPEDANCE.
* Biasing the inputs from ideal voltage sources restores the injected charge
* instantly and reports ~0 kickback no matter how bad it is; that is the
* standard way this measurement gets faked. Two independent drives are used
* here instead, and BOTH are in the record:
*
*   A -- 1 kohm series source impedance with 100 fF of input-node
*        capacitance. This is the condition README.md's kickback row is
*        stated at. It reports the PEAK transient disturbance.
*
*   B/C -- a 1 pF input node fed through 1 Gohm, i.e. RC = 1 ms against a
*        ~30 ns decision cycle. This reports the RESIDUAL charge left on the
*        node after the decision. B sits at a 1 mV residue and C at 100 mV,
*        so their difference is the SIGNAL-DEPENDENT part of the kickback.
*
* THE RESIDUAL PROBES ARE REFERENCED NEAR ZERO VOLTS, DELIBERATELY. ngspice's
* `meas` returns roughly six significant digits, so differencing two ~1 V
* node levels quantizes the answer at ~1 microvolt -- coarser than the
* residual kickback of a well-isolated input stage. The Bbd/Bcd/Bbc
* behavioural sources below compute the differential (or common-mode-
* referred) node voltage as a signal near 0 V, so `meas` resolves it ~1000x
* finer. Both forms are reported.
*
* MISMATCH IS OFF (the plain `mos` corner set). Kickback and offset are
* separable effects budgeted separately.

.param rsrc=1k
.param cin=100f
.param rfloat=1G
.param cfloat=1p
.param dv_small=1m
.param dv_big=100m
.param t_pre=29n
.param t_post=55n

vsup vdd 0 dc {vdd_val}
vcm  cm 0 dc {dut_vcm}

* One strobe, late enough that every node has settled from the operating
* point before the decision happens.
vclk clk 0 pulse(0 {vdd_val} 30n 100p 100p 10n 30n)

* ---- A: 1 kohm source impedance (README.md's stated condition) --------
vsa  sa 0 dc {dv_small}
Easp asp cm sa 0 0.5
Easn asn cm sa 0 -0.5
Rap  asp apa {rsrc}
Ran  asn ana {rsrc}
Cap  apa 0 {cin}
Can  ana 0 {cin}
iba  vdd ibna dc {dut_ib}
Xa   apa ana clk ibna douta doutba vdd 0 comparator_dut

* ---- B: floating high-Z input, small residue --------------------------
vsb  sb 0 dc {dv_small}
Ebsp bsp cm sb 0 0.5
Ebsn bsn cm sb 0 -0.5
Rbp  bsp bpp {rfloat}
Rbn  bsn bpn {rfloat}
Cbp  bpp 0 {cfloat}
Cbn  bpn 0 {cfloat}
ibb  vdd ibnb dc {dut_ib}
Xb   bpp bpn clk ibnb doutb doutbb vdd 0 comparator_dut

* ---- C: floating high-Z input, large residue --------------------------
vsc  sc 0 dc {dv_big}
Ecsp csp cm sc 0 0.5
Ecsn csn cm sc 0 -0.5
Rcp  csp cpp {rfloat}
Rcn  csn cpn {rfloat}
Ccp  cpp 0 {cfloat}
Ccn  cpn 0 {cfloat}
ibc  vdd ibnc dc {dut_ib}
Xc   cpp cpn clk ibnc doutc doutbc vdd 0 comparator_dut

* ---- near-zero-referenced probes (see header) -------------------------
* ad: instantaneous disturbance of A's + input relative to its own driving
*     source, so the peak is measured against what the node WOULD have been.
Bad ad 0 v = 'v(apa)-v(asp)'
* bd/cd: differential input voltage of the floating instances, a ~1 mV and
*     ~100 mV quantity rather than a ~1 V one.
Bbd bd 0 v = 'v(bpp)-v(bpn)'
Bcd cd 0 v = 'v(cpp)-v(cpn)'
* bc: common-mode displacement of the floating instance, referenced to the
*     bias so it too is a small quantity.
Bbc bc 0 v = '(v(bpp)+v(bpn))/2-v(cm)'

* ---- supply-normalized decision probes --------------------------------
Bdan dan 0 v = 'v(douta)/v(vdd)'
Bdbn dbn 0 v = 'v(doutb)/v(vdd)'
Bdcn dcn 0 v = 'v(doutc)/v(vdd)'
